D prze³¹czanie diody sygna³em sin
.WIDTH IN=80 OUT=80

*definicja uk³adu - Ÿród³o sygna³u sinusoidalnego f=10MHz "MEG"
V1 1 0 SIN(0 10 50MEG 0 0)
D1 2 0 dELIU
R1 1 2 1K

*model diody
.MODEL dELIU D IS=3.5E-14 TT=5N CJO=3P BV=10 M=0.33 VJ=0.8 IBV=1.0E-5 RS=1

*definicja zmian czasu - analiza w dziedzine czasu
.TRAN 0.02n 40n

.OPTIONS NOPAGE
.PROBE
.END