D prze³¹czanie diody sygna³em impulsowym
.WIDTH IN=80 OUT=80

*definicja uk³adu - Ÿród³o sygna³u impulsowego
V1 1 0 PULSE(-10 10 0 0 0 10N 20N)
D1 2 0 dELIU
R1 1 2 1K

.MODEL dELIU D IS=3.5E-14 TT=5N CJO=3P BV=10 M=0.33 VJ=0.8 IBV=1.0E-5 RS=1

*analiza
.TRAN 0.5N 40N 
.OP
.OPTIONS NOPAGE
.PROBE
.END
